US09260438B2
A solution of 4M hydrogen chloride in 1,4-dioxane (6.722 mmol) was added to a suspension of tofacitinib free base (2.0 g, 6.402 mmol) in acetone (25 mL). The suspension was stirred at 23 to 25° C. for 16 hours, filtered and washed with acetone (2×10 mL) to yield a damp cake (5.15 g) of tofacitinib hydrochloride as a white solid. A PXRD taken of the damp cake is shown in FIG. 1. A sample was air-dried over 3 days and 2.3 g of this dried material was suspended in refluxing acetone (30 mL) for 24 hours. The suspension was cooled to 23 to 25° C., filtered, washed with acetone (2×5 mL) and air-dried for 16 hours to yield tofacitinib hydrochloride (2.24 g) as a white solid. 1H NMR analysis showed a molar ratio of tofacitinib hydrochloride to acetone of approximately 1:0.86 (12.5 wt %). Water content (KF) was 0.0%. A PXRD taken of this sample is shown in FIG. 2.

reactant | hydrogen chloride | 4M | Cl | ClH
reactant | 1,4-dioxane | 6.722 mmol | O1CCOCC1 | C4H8O2
reactant | tofacitinib | 6.402 mmol, 2.0 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N | C16H20N6O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | tofacitinib hydrochloride | 5.15 g | C[C@@H]1CCN(C[C@@H]1N(C)C2=C3C=CNC3=NC=N2)C(=O)CC#N.Cl | InChI=1S/C16H20N6O.ClH/c1-11-5-8-22(14(23)3-6-17)9-13(11)21(2)16-12-4-7-18-15(12)19-10-20-16;/h4,7,10-11,13H,3,5,8-9H2,1-2H3,(H,18,19,20);1H/t11-,13+;/m1./s1
